US04476126
Bis-[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]butanedioate
To a stirred mixture of butanedioyl dichlorite (0.19 g) and pyridine (3 ml) was added portionwise 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanol (0.8 g). After stirring at room temperature for 16.5 h, water (10 ml) and anhydrous sodium carbonate (1 g) were added and the solution evaporated to dryness with the aid of ethanol (3×10 ml). To the residue was added ethyl acetate (60 ml), excess anhydrous sodium carbonate and decolourising charcoal. After 2 h, the mixture was filtered, the residue washed with hot ethyl acetate (4×15 ml) and the filtrate evaporated to give a white residue. This was crystallised from ethyl acetate to give the title compound (0.3 g), m.p. 116°-118°.

reactant | butanedioyl dichlorite | 0.19 g | Cl(=O)OC(CCC(=O)OCl=O)=O | C4H4Cl2O6
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanol | 0.8 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CO | C19H29N5O2
reactant | sodium carbonate | 1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 ml | O | H2O
product | Bis-[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]butanedioate | 0.3 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)COC(CCC(=O)OCC1=NN(C(=N1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C)=O | C42H60N10O6
